US04122180
A mixture of 2.28 g. of 4-(1-isoquinolyl)-piperidin-4-ol, 1 ml. of pyridine, 1 ml. of acetic anhydride and 20 ml. of benzene is stirred for 3 hours at 25°. The crude 1-acetyl-4-(1-isoquinolyl)-piperidin-4-ol obtained after the customary work up is heated under reflux with 0.7 g. of LiAlH4 in 40 ml. of THF for 24 hours, under nitrogen. The mixture is worked up with sodium hydroxide solution and chloroform in the customary manner to give 1-ethyl-4-(1-isoquinolyl)-piperidin-4-ol, m.p. 275°-276°.

reactant | 4-(1-isoquinolyl)-piperidin-4-ol | C1(=NC=CC2=CC=CC=C12)C1(CCNCC1)O | C14H16N2O
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | THF | C1CCOC1 | C4H8O
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1-ethyl-4-(1-isoquinolyl)-piperidin-4-ol | C(C)N1CCC(CC1)(O)C1=NC=CC2=CC=CC=C12 | C16H20N2O
